US06509328B1
3-(4-Oxo-7-pyridin-2-ylethynyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-benzonitrile
Prepared from (2-amino-4-pyridin-2-ylethynyl-phenyl)-carbamic acid tert.-butyl ester (Example G19) (124 mg, 0.4 mmol) and 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile (Example J4) (147 mg, 0.48 mmol) according to the general procedure K. The obtained material (199 mg) was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a yellow solid (124 mg).

reactant | (2-amino-4-pyridin-2-ylethynyl-phenyl)-carbamic acid tert.-butyl ester | 0.4 mmol, 124 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=NC=CC=C1)N)=O | C18H19N3O2
reactant | 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile | 0.48 mmol, 147 mg | CC1(OC(C=C(O1)C=1C=C(C#N)C=CC1)=O)C | C13H11NO3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(4-Oxo-7-pyridin-2-ylethynyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-benzonitrile | 124 mg | O=C1NC2=C(N=C(C1)C=1C=C(C#N)C=CC1)C=CC(=C2)C#CC2=NC=CC=C2 | C23H14N4O
